### PR TITLE
test: experiment with branch with footguns

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 1]
```diff
@@ -124,7 +124,7 @@ abbrev LinearMapClass (F : Type*) (R : outParam Type*) (M M₂ : Type*)
     [FunLike F M M₂] :=
   SemilinearMapClass F (RingHom.id R) M M₂
 
-instance (F R M M₂ : Type*)
+instance (F : Type*) (R M M₂ : outParam Type*)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]: I thought `outParam` was meaningless on `instance`s and only did something on `class`; is that no longer true?

File: Mathlib/Combinatorics/Enumerative/IncidenceAlgebra.lean [hunk 2]
```diff
@@ -502,18 +502,19 @@ lemma sum_Icc_mu_left (a b : α) : ∑ x ∈ Icc a b, mu 𝕜 x b = if a = b the
 end MuEqMu'
 
 section OrderDual
-variable (𝕜) [Ring 𝕜] [PartialOrder α] [LocallyFiniteOrder α] [DecidableEq α]
+variable (𝕜) [Ring 𝕜] [PartialOrder α] [LocallyFiniteOrder α] [h : DecidableEq α]
 
 @[simp]
-lemma mu_toDual (a b : α) : mu 𝕜 (toDual a) (toDual b) = mu 𝕜 b a := by
+lemma mu_toDual (a b : α) :
+    @mu 𝕜 αᵒᵈ _ _ _ _ h (toDual a) (toDual b) = mu 𝕜 b a := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Enumerative/IncidenceAlgebra.lean:509]: What's going on here? Are we missing a `DecidableEq (OrderDual X)` instance?

Comment (eric-wieser) [reply Mathlib/Combinatorics/Enumerative/IncidenceAlgebra.lean:509]: Indeed, added in #35235

File: Mathlib/Data/DFinsupp/Lex.lean [hunk 3]
```diff
@@ -149,6 +153,8 @@ instance Lex.total_le : @Std.Total (Lex (Π₀ i, α i)) (· ≤ ·) where
   total := lt_trichotomy_rec (fun h ↦ Or.inl h.le) (fun h ↦ Or.inl h.le) fun h ↦ Or.inr h.le
 
 instance Colex.total_le : @Std.Total (Colex (Π₀ i, α i)) (· ≤ ·) :=
+  letI : ∀ (i : ιᵒᵈ), Zero (α i) := hZ
+  letI : ∀ (i : ιᵒᵈ), LinearOrder (α i) := hL
```
Comment (eric-wieser) [inline Mathlib/Data/DFinsupp/Lex.lean:157]: This looks fishy to me, `α i` is not well-typed, it should be `α i.ofDual` or similar

File: Mathlib/Order/PiLex.lean [hunk 4]
```diff
@@ -345,9 +354,10 @@ theorem lex_desc {α} [Preorder ι] [DecidableEq ι] [LT α] {f : ι → α} {i
 
 /-- If we swap two strictly increasing values in a function, then the result is colexicographically
 smaller than the original function. -/
-theorem colex_asc {α} [Preorder ι] [DecidableEq ι] [LT α] {f : ι → α} {i j : ι} (h₁ : i ≤ j)
+theorem colex_asc {α} [Preorder ι] [h : DecidableEq ι] [LT α] {f : ι → α} {i j : ι} (h₁ : i ≤ j)
     (h₂ : f i < f j) : toColex (f ∘ Equiv.swap i j) < toColex f := by
   rw [Equiv.swap_comm]
+  letI : DecidableEq (ιᵒᵈ) := h
```
Comment (eric-wieser) [inline Mathlib/Order/PiLex.lean:360]: #35235 allows you to delete this.

Comment (sgouezel) [reply Mathlib/Order/PiLex.lean:360]: No. With the changes to core, this instance does not fire, so it is useless.

File: Mathlib/Algebra/Module/LinearMap/Defs.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: This is an experiment to try to fix an instance not firing, but it didn't make a difference, so I will remove it.

File: Mathlib/Combinatorics/Enumerative/IncidenceAlgebra.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Combinatorics/Enumerative/IncidenceAlgebra.lean:509]: It doesn't fire with the new core changes, so it's useless.

File: Mathlib/Data/DFinsupp/Lex.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Data/DFinsupp/Lex.lean:157]: Since it's local to the proof and works fine, I don't think it really matters.

File: Mathlib/Order/PiLex.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Order/PiLex.lean:360]: That's very surprising!
